US07288659B2
5-bromo-N-(diphenylmethylene)-1,3-thiazol-2-amine
26 g of benzophenone imine are added to 34 g of 5-bromo-1,3-thiazol-2-amine hydrobromide, in suspension in 300 ml of 1,2-dichloroethane. The mixture is kept under reflux for 18 hours. The precipitate formed is filtered and the filtrate is concentrated to give 37.2 g of solid. m.p.=109° C.

reactant | benzophenone imine | 26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 5-bromo-1,3-thiazol-2-amine hydrobromide | 34 g | Br.BrC1=CN=C(S1)N
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 5-bromo-N-(diphenylmethylene)-1,3-thiazol-2-amine | 37.2 g | BrC1=CN=C(S1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H11BrN2S
